US07897597B2
Hydrogen fluoride (7.5 g of 48%, 0.18 mol) was added to a solution of [7-benzyloxy-1-(2-hydroxy-2-methylpropyl)-1H-imidazo[4,5-c]quinolin-2-yl]methyl acetate (40.0 g, 0.0953 mol) in DMF (910 mL) and methanol (300 mL). mCPBA (60.6 g, 0.200 mol, 57% pure) was then added in one portion, and the reaction was stirred at ambient temperature for 5.5 hours. A mixture of ice and deionized water (4 L) was then added to the reaction mixture, and the resulting mixture was stirred vigorously for 30 minutes. The solid product was isolated by filtration, washed with deionized water, and dried under vacuum at 50° C. The solid was then triturated with diethyl ether (500 mL) for one hour, isolated by filtration, washed with diethyl ether (400 mL), and dried under vacuum at 40° C. to provide 41.7 g of [7-benzyloxy-1-(2-hydroxy-2-methylpropyl)-5-oxido-1H-imidazo[4,5-c]quinolin-2-yl]methyl acetate.

reactant | Hydrogen fluoride | 0.18 mol, 7.5 g | F | FH
reactant | [7-benzyloxy-1-(2-hydroxy-2-methylpropyl)-1H-imidazo[4,5-c]quinolin-2-yl]methyl acetate | 0.0953 mol, 40.0 g | C(C)(=O)OCC=1N(C2=C(C=NC=3C=C(C=CC23)OCC2=CC=CC=C2)N1)CC(C)(C)O | C24H25N3O4
reactant | mCPBA | 0.200 mol, 60.6 g | C1=CC(=CC(=C1)Cl)C(=O)OO | C7H5ClO3
reactant | water | 4 L | O | H2O
solvent | DMF | 910 mL | CN(C)C=O | C3H7NO
solvent | methanol | 300 mL | CO | CH4O
product | [7-benzyloxy-1-(2-hydroxy-2-methylpropyl)-5-oxido-1H-imidazo[4,5-c]quinolin-2-yl]methyl acetate | 41.7 g | C(C)(=O)OCC=1N(C2=C(C=[N+](C=3C=C(C=CC23)OCC2=CC=CC=C2)[O-])N1)CC(C)(C)O | C24H25N3O5
